US03997535
c. 3,4-Dihydro-6-methoxy-4-methyl-3-oxo-2-quinoxalinecarboxylic acid
3,4-Dihydro-6-methoxy-4-methyl-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester (1.5 g) and aqueous sodium hydroxide (25 ml., 2N) were heated on a steam bath for 5 minutes. The solution was acidified with dilute hydrochloric acid to pH1 and the solid was collected and dried, m.p. 223° (d) (100%).

reactant | 3,4-Dihydro-6-methoxy-4-methyl-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | 1.5 g | COC=1C=C2N(C(C(=NC2=CC1)C(=O)OCC)=O)C | C13H14N2O4
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 3,4-Dihydro-6-methoxy-4-methyl-3-oxo-2-quinoxalinecarboxylic acid | COC=1C=C2N(C(C(=NC2=CC1)C(=O)O)=O)C | C11H10N2O4
